US08003785B2
To a mixture of 1.1371 g (4.0 mmole) of 4-amino-3-methoxy-benzoic acid benzotriazol-1-yl ester and 8 mL of dry tetrahydrofuran at 0 degrees was added 0.6131 g (6.0 mmole) of 3-dimethylamino-propylamine followed by 1.0119 g (10 mmole) of triethylamine. The cooling bath was removed and the mixture stirred at room temperature for 65 minutes. Volatiles were removed under reduced pressure and the residue taken up in ethyl acetate, and the organic layer washed twice with 50 mL of 0.5 M sodium carbonate, 50 mL water, and then 50 mL brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 0.8587 g 4-amino-N-(3-dimethylamino-propyl)-3-methoxy-benzamide, which was used without further purification.

reactant | 4-amino-3-methoxy-benzoic acid benzotriazol-1-yl ester | 4.0 mmole, 1.1371 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC(=C(C=C2)N)OC)=O | C14H12N4O3
reactant | 3-dimethylamino-propylamine | 6.0 mmole, 0.6131 g | CN(CCCN)C | C5H14N2
reactant | triethylamine | 10 mmole, 1.0119 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 4-amino-N-(3-dimethylamino-propyl)-3-methoxy-benzamide | 0.8587 g | NC1=C(C=C(C(=O)NCCCN(C)C)C=C1)OC | C13H21N3O2
